US05576322
2-Methoxy-4-(3-chloro-4-methoxybenzyl)amino-6-chloroquinoline
A mixture comprising 200 mg of 2,6-dichloro-4-(3-chloro-4-methoxybenzyl)aminoquinoline, 0.5 ml of methanol, 200 mg of potassium t-butoxide and 3 ml of 1,4-dioxane was heated under reflux for one hour and cooled, followed by the addition of water. The resulting mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 10 to 30% ethyl acetate/hexane and recrystallized from ethyl acetate/hexane to give 150 mg of the title compound.

reactant | 2,6-dichloro-4-(3-chloro-4-methoxybenzyl)aminoquinoline | 200 mg | ClC1=NC2=CC=C(C=C2C(=C1)NCC1=CC(=C(C=C1)OC)Cl)Cl | C17H13Cl3N2O
reactant | methanol | 0.5 ml | CO | CH4O
reactant | potassium t-butoxide | 200 mg | CC(C)([O-])C.[K+]
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-Methoxy-4-(3-chloro-4-methoxybenzyl)amino-6-chloroquinoline | 150 mg | COC1=NC2=CC=C(C=C2C(=C1)NCC1=CC(=C(C=C1)OC)Cl)Cl | C18H16Cl2N2O2
